US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxlate (4.0 g), 4-fluoro-3-nitrotoluene (3.3 g) and dimethyl sulfoxide (55 ml), ethyl 2-(4-methyl-2-nitroanilino)benzo[b]thiophene-3-carboxylate (6.5 g) was obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxlate | 4.0 g | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 4-fluoro-3-nitrotoluene | 3.3 g | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
solvent | dimethyl sulfoxide | 55 ml | CS(=O)C | C2H6OS
product | ethyl 2-(4-methyl-2-nitroanilino)benzo[b]thiophene-3-carboxylate | 6.5 g | CC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1)[N+](=O)[O-] | C18H16N2O4S
